US09120749B2
tert-Butyl cis-4-[3-(cyclopropanecarbonyl)-6-(3,5-difluoro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexylcarbamate
Following general procedure F, tert-butyl cis-4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexylcarbamate (54 mg, 0.110 mmol) was reacted with 2,6-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (34 mg, 0.132 mmol) to afford the desired product (51 mg, 86%) as a light yellow solid: ESI MS m/z 538 [C30H33F2N3O4+H]+.

reactant | tert-butyl cis-4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexylcarbamate | 0.110 mmol, 54 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C24H30BrN3O3
reactant | 2,6-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.132 mmol, 34 mg | FC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BF2O3
product | tert-Butyl cis-4-[3-(cyclopropanecarbonyl)-6-(3,5-difluoro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexylcarbamate | 51 mg, 86% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N[C@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C1=CC(=C(C(=C1)F)O)F | C30H33F2N3O4
